US04985444
A mixture of 3-(2-morpholino-2-thioxoethyl)-2-phenylpyrazolo[1,5-a]pyridine (5.50 g), potassium hydroxide (85%, 6.45 g) and water (44 ml) was refluxed for 14 hours. After cooling, the reaction mixture was poured onto ice (110 g) and acidified with 6N-hydrochloric acid (pH ≈2) and the resulting precipitates were collected to give 2-(2-phenylpyrazolo[1,5-a]pyridin-3-yl)acetic acid (4.20 g).

reactant | 3-(2-morpholino-2-thioxoethyl)-2-phenylpyrazolo[1,5-a]pyridine | 5.50 g | O1CCN(CC1)C(CC=1C(=NN2C1C=CC=C2)C2=CC=CC=C2)=S | C19H19N3OS
reactant | potassium hydroxide | 6.45 g | [OH-].[K+]
reactant | hydrochloric acid | pH ≈2 | Cl | ClH
reactant | water | 44 ml | O | H2O
product | 2-(2-phenylpyrazolo[1,5-a]pyridin-3-yl)acetic acid | 4.20 g | C1(=CC=CC=C1)C1=NN2C(C=CC=C2)=C1CC(=O)O | C15H12N2O2
